US06864277B2
A) 5-Chloro-3-hydroxy-3-(4-methoxyphenyl)-1,3-dihydro-2H-indol-2-one
This compound is prepared according to the procedure described in step A of Preparation 1.3 starting with 3.5 g of magnesium, 25 g of 1-bromo-4-methoxybenzene, 50 ml of THF and a mixture of 8 g of 5-chloro-1H-indol-2,3-dione in 50 ml of THF. 9.3 g of the expected product are obtained after crystallization from hot iso ether; m.p.=202° C.

reactant | magnesium | 3.5 g | [Mg] | Mg
reactant | 1-bromo-4-methoxybenzene | 25 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 5-chloro-1H-indol-2,3-dione | 8 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-hydroxy-3-(4-methoxyphenyl)-1,3-dihydro-2H-indol-2-one | 9.3 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=CC=C(C=C1)OC)O | C15H12ClNO3
